US08039463B2
HOBt (34 mg, 0.25 mmol) and DIPEA (67.9 mg, 0.51 mmol) were added to a stirred solution of 4-fluorobenzoic acid (29 mg, 0.21 mmol) in DMF (1.5 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (48 mg, 0.25 mmol) followed by N-biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide.hydrochloride (75 mg, 0.2 mmol) were added. The reaction mixture was stirred at room temperature overnight, then diluted with water. The resulting precipitate was filtered to afford 90 mg (97%) of N-biphenyl-4-yl-3-[4-(4-fluoro-benzoyl)-piperazin-1-yl]-3-oxo-propionamide. LCMS: 446.18 (M+1)+, 97.9%. 1H NMR: (CDCl3): δ 9.8 (s, 1H), 7.6 (m, 6H), 7.44 (m, 3H), 7.34 (t, 1H), 7.14 (t, 2H), 3.7 (m, 10H).

reactant | HOBt | 0.25 mmol, 34 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.51 mmol, 67.9 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-fluorobenzoic acid | 0.21 mmol, 29 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | EDCI.HCl | 0.25 mmol, 48 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide.hydrochloride | 0.2 mmol, 75 mg | Cl.C1(=CC=C(C=C1)NC(CC(N1CCNCC1)=O)=O)C1=CC=CC=C1
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-biphenyl-4-yl-3-[4-(4-fluoro-benzoyl)-piperazin-1-yl]-3-oxo-propionamide | 90 mg, 97% | C1(=CC=C(C=C1)NC(CC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)F)=O)=O)C1=CC=CC=C1 | C26H24FN3O3
